US05162521
Diphenylmethyl 7-phenylacetamido-3-[(benzothiazol-2-yl)thio]-3-cephem-4-carboxylate (IIc)
2-Mercaptobenzothiazole (0.59 g, 0.00353 mole) was dissolved in dry dichloromethane (5 mL), and the resulting mixture was treated at 0° C. with sodium hydride (0.141 g of a 1:1 mineral oil dispersion, 0.00294 mole). Evolution of hydrogen was complete in 15 min, and, after cooling to -30° C., the mixture was treated with a solution of diphenylmethyl 7- phenylacetamido-3-trifluoromethanesulfonyloxy-3-cephem-4-carboxylate (IVa, 1.858 g, 0.00294 mole) in dichloromethane (25 mL) over a 1-2 min period. The mixture was stirred 16 h at -15° C. and then 4 h at 0° C. in order to consume all of compound IVa (the reaction was monitered by HPLC). (Reaction at higher temperature induces formation of the Δ2 -isomer of compound IIc.) Dilute hydrochloric acid (0.5N, 10 mL) was added to the reaction mixture, followed by extracting the mixture with dichloromethane and drying (sodium sulfate) to yield the title product as a crude product which was recrystallized from dichloromethane/ether at 0° C. overnight.

reactant | 2-Mercaptobenzothiazole | 0.00353 mole, 0.59 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | diphenylmethyl 7- phenylacetamido-3-trifluoromethanesulfonyloxy-3-cephem-4-carboxylate | 0.00294 mole, 1.858 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H23F3N2O7S2
reactant | hydrochloric acid | 0.5N, 10 mL | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Diphenylmethyl 7-phenylacetamido-3-[(benzothiazol-2-yl)thio]-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)SC=2SC3=C(N2)C=CC=C3)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C35H27N3O4S3
